US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-[(3-methyl-2-thienyl)carbonyl]thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 3-methyl-2-thiophenecarboxylic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 3-methyl-2-thiophenecarbonyl isothiocyanate was prepared using the resultant 3-methyl-2-thiophenecarbonyl chloride as a starting compound according to the description of the literature. 3-Methyl-2-thiophenecarbonyl isothiocyanate was dissolved in ethanol (1 ml) to prepare a solution. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (42 mg, yield 53%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methyl-2-thiophenecarboxylic acid | 80 mg | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | 3-methyl-2-thiophenecarbonyl chloride | CC1=C(SC=C1)C(=O)Cl | C6H5ClOS
reactant | 3-Methyl-2-thiophenecarbonyl isothiocyanate | CC1=C(SC=C1)C(=O)N=C=S | C7H5NOS2
reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C17H15FN2O3
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-[(3-methyl-2-thienyl)carbonyl]thiourea | 42 mg, yield 53% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=S)NC(=O)C=1SC=CC1C)F | C24H20FN3O4S2
